US07982053B2
In a 500 ml flask was dissolved phenylmethyl 3,3-dimethyl-2-(methyloxy)-1-pyrrolidinecarboxylate (0.0426 mol, 11.2 g) in 200 ml methylene chloride under argon. After the solution was cooled to −78° C., trimethylsilyl cyanide (0.0640 mol, 6.32 g) was added followed by boron triflouride etherate (0.0640 mol, 9.09 g). After 1 hr of stirring, the reaction was quenched with saturated aqueous sodium bicarbonate and allowed to warm to 20° C. After 2 hr of vigorous stirring, the aqueous phase was separated and extracted with methylene chloride (2×100 ml). All organics were combined, dried over MgSO4, filtered and concentrated yielding 10.8 g (98%) of phenylmethyl 2-cyano-3,3-dimethyl-1-pyrrolidinecarboxylate as a clear oil which was used without further purification. LCMS (ESI+)=259 m/z (MH+). 1H NMR (400 MHz, CDCl3)— rotamers δ 7.44-7.35 (m, 5H), 5.21 and 5.20 (s, 2H), 4.26 and 4.17 (s, 1H), 3.64-3.51 (m, 2H), 2.01-1.95 (m, 1H), 1.80-1.74 (m, 1H), 1.36 (s, 3H), 1.16 (s, 3H).

reactant | phenylmethyl 3,3-dimethyl-2-(methyloxy)-1-pyrrolidinecarboxylate | 0.0426 mol, 11.2 g | CC1(C(N(CC1)C(=O)OCC1=CC=CC=C1)OC)C | C15H21NO3
reactant | trimethylsilyl cyanide | 0.0640 mol, 6.32 g | C[Si](C)(C)C#N | C4H9NSi
reactant | boron triflouride etherate | 0.0640 mol, 9.09 g | B(F)(F)F.CCOCC
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | phenylmethyl 2-cyano-3,3-dimethyl-1-pyrrolidinecarboxylate | 10.8 g, 98% | C(#N)C1N(CCC1(C)C)C(=O)OCC1=CC=CC=C1 | C15H18N2O2
